US07875715B2
Intermediate 7: tert-Butyl[1-(2-hydroxyethyl)piperidin-4-yl]carbamate
A mixture of tert-butyl piperidin-4-ylcarbamate (5 g, 25 mmol), 2-bromoethanol (1.77 mL, 25 mmol) and triethylamine (3.86 mL, 27.5 mmol) in acetonitrile (20 mL) was heated in a sealed tube at 50° C. for 16 hours. The solvent was removed under reduced pressure, and the residue was taken up in ethyl acetate (300 mL) and washed with saturated aqueous sodium hydrogen carbonate solution (100 mL). The aqueous phase was back-extracted once with ethyl acetate (100 mL) and the combined organic phases were dried over sodium sulfate and concentrated under reduced pressure. Chromatography on silica gel with dichloromethane/methanol (4:1) gave 4.04 g (66% yield) of product as a colorless solid, mp 66° C.

reactant | tert-butyl piperidin-4-ylcarbamate | 25 mmol, 5 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | 2-bromoethanol | 25 mmol, 1.77 mL | BrCCO | C2H5BrO
reactant | triethylamine | 27.5 mmol, 3.86 mL | C(C)N(CC)CC | C6H15N
reactant | dichloromethane methanol | ClCCl.CO
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | tert-Butyl[1-(2-hydroxyethyl)piperidin-4-yl]carbamate | 4.04 g, 66% yield | C(C)(C)(C)OC(NC1CCN(CC1)CCO)=O | C12H24N2O3
